US04448773
N-(1'-Methoxycarbonyl-ethyl)-N-methoxyacetyl-2,6-dimethyl-3-acetoxymethylaniline
35.0 g of N-(1'-methoxycarbonyl-ethyl)-2,6-dimethyl-3-acetoxymethylaniline and 13.3 g of sodium carbonate were placed into 250 ml of toluene, and 20.0 g of methoxyacetic acid chloride, dissolved in 50 ml of toluene, were slowly added. After the exothermic reaction had subsided, the temperature was held at 45° C. for 7 hours by means of a water-bath. The cooled reaction mixture was filtered, and the filtrate was concentrated in a rotary evaporator. The oily residue was distilled: b.p. 167°-171° C. at 0.07 bar.

reactant | N-(1'-methoxycarbonyl-ethyl)-2,6-dimethyl-3-acetoxymethylaniline | 35.0 g | COC(=O)C(C)NC1=C(C(=CC=C1C)COC(C)=O)C | C15H21NO4
reactant | sodium carbonate | 13.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methoxyacetic acid chloride | 20.0 g | COCC(=O)Cl | C3H5ClO2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | N-(1'-Methoxycarbonyl-ethyl)-N-methoxyacetyl-2,6-dimethyl-3-acetoxymethylaniline | COC(=O)C(C)N(C1=C(C(=CC=C1C)COC(C)=O)C)C(COC)=O | C18H25NO6
